US06300366B1
N-(Dicyclopropymethyl)-3,4-dihydro-2H-pyrrol-5-amine hydrochloride
A mixture of 0.2 mol (25.2 g) of dimethyl sulphate and 0.2 mol (17 g) of 2-pyrrolidinone is heated at 60° C. overnight. The reaction mixture is poured into a saturated iced K2CO3 solution. The aqueous phase is extracted twice with ether, and the combined organic phases are dried and concentrated. The residue is then distilled under reduced pressure. 2 mrnmol of the resulting product are dissolved in 20 ml of methanol, and 2 mmol (295 mg) of dicyclopropylmethylamine hydrochloride are added. The reaction mixture is stirred at 50° C. for 2 hours. After evaporation of the methanol, the residue is taken up in water, rendered alkaline and extracted twice with ether. The organic phase is dried, concentrated and purified to yield the expected product. The corresponding, hydrochloride is obtained by the action of a titrated solution of hydrochloric acid in ethanol.

reactant | dimethyl sulphate | 0.2 mol, 25.2 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 2-pyrrolidinone | 0.2 mol, 17 g | N1C(CCC1)=O | C4H7NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | dicyclopropylmethylamine hydrochloride | 2 mmol, 295 mg | Cl.C1(CC1)C(C1CC1)N
product | N-(Dicyclopropymethyl)-3,4-dihydro-2H-pyrrol-5-amine hydrochloride | Cl.C1(CC1)C(NC=1CCCN1)C1CC1 | InChI=1S/C11H18N2.ClH/c1-2-10(12-7-1)13-11(8-3-4-8)9-5-6-9;/h8-9,11H,1-7H2,(H,12,13);1H
